US05219871
Preparation of 1-cyano-1,1-diphenyl-3-[N-{2-(2,3-dihydrobenzofur-5-yl)ethyl}-N-methylamino]propane
A mixture containing 3-bromo-1-cyano-1,1-diphenylpropane (0.3 g-see Preparation 4), N-[2-(2,3-dihydrobenzofur-5-yl)-ethyl]-N-methylamine (0.177 g-see Preparation 28), anhydrous potassium carbonate (0.276 g) and acetonitrile (25 ml) was heated under reflux for 48 hours. On cooling to room temperature, the mixture was concentrated in vacuo and the residue was partitioned between water (20 ml) and dichloromethane (40 ml). The layers were separated and the aqueous layer further extracted with dichloromethane (2×20 ml). The combined dichloromethane extracts were dried (Na2SO4) and concentrated in vacuo to give an oil which was purified by column chromatography on silica eluting with hexane containing dichloromethane (50% up to 100%) and then with dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as an oil, yield, 0.13 g.

reactant | 3-bromo-1-cyano-1,1-diphenylpropane | 0.3 g | BrCCC(C1=CC=CC=C1)(C1=CC=CC=C1)C#N | C16H14BrN
reactant | N-[2-(2,3-dihydrobenzofur-5-yl)-ethyl]-N-methylamine | 0.177 g | O1CCC2=C1C=CC(=C2)CCNC | C11H15NO
reactant | potassium carbonate | 0.276 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-cyano-1,1-diphenyl-3-[N-{2-(2,3-dihydrobenzofur-5-yl)ethyl}-N-methylamino]propane | C(#N)C(CCN(C)CCC=1C=CC2=C(CCO2)C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N2O
